US05149462
In 10 ml of DMF was dissolved 1.2 g of methyl (R)-β-hydroxybutyrate, and 1.8 g of t-butyldimethylsilyl chloride and 1.0 g of imidazole were added to the solution and reaction was carried out at room temperature overnight. Water was added to the solution and the mixture was extracted with ether. The extract was subjected to distillation to obtain 2 g of methyl (R)-β-t-butyldimethylsilyloxybutyrate. The obtained compound was dissolved in anhydrous ether and the solution was added dropwise into a suspension of 0.5 g of lithium aluminum hydride in anhydrous ether. After the dropwise addition, the mixture was refluxed for 3 hours. After the reaction, 0.5 ml of water, 0.5 ml of 15% NaOH and 1.5 ml of water were added in turn to the reaction mixture, 20 ml of THF was further added, and the mixture was stirred for 30 minutes. The precipitate was removed by filtration, and the filtrate was dried over magnesium sulfate and concentrated under a reduced pressure. The residue was subjected to distillation under reduced pressure to obtain

reactant | methyl (R)-β-hydroxybutyrate | 1.2 g | O[C@@H](CC(=O)OC)C | C5H10O3
reactant | t-butyldimethylsilyl chloride | 1.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 1.0 g | N1C=NC=C1 | C3H4N2
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | methyl (R)-β-t-butyldimethylsilyloxybutyrate | 2 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)OC)C | C11H24O3Si
